US09233979B2
A 20 mL microwave vial was charged with sodium tert-butoxide (103 mg, 1.075 mmol), methyl (6-chloro-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-yl)carbamate (252 mg, 0.537 mmol), benzyl carbamate (122 mg, 0.806 mmol) and BrettPhos-G3-Pd (24.36 mg, 0.027 mmol). THF (6 ml) was added, the vial was flushed with argon, capped and the contents heated to 50° C. with stirring for 10 h. LCMS analysis indicated incomplete conversion to the desired product. Excess benzyl carbamate (61 mg), sodium tert-butoxide (51 mg) and BrettPhos-G3-Pd (12 mg) was added. The vial was flushed with argon, capped and the contents heated to 50° C. for an additional 4 h. The mixture was cooled, diluted with ethyl acetate (10 mL), washed with saturated aqueous sodium hydrogen carbonate (2×20 mL), dried (MgSO4), filtered and the solvent evaporated under reduced pressure. The resulting residue was purified by flash column chromatography on silica gel (ISCO; 24 g prepacked) eluting with ethyl acetate/hexanes to afford benzyl methyl (1-trityl-1H-pyrazolo[4,3-c]pyridine-3,6-diyl)dicarbamate (126 mg, 0.216 mmol, 40.2% yield) as a white solid. MS ESI calc'd. For C35H30N5O4 [M+H]+ 584. found 584.

reactant | sodium tert-butoxide | 1.075 mmol, 103 mg | CC(C)([O-])C.[Na+]
reactant | methyl (6-chloro-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-yl)carbamate | 0.537 mmol, 252 mg | ClC1=CC2=C(C=N1)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)NC(OC)=O | C27H21ClN4O2
reactant | benzyl carbamate | 0.806 mmol, 122 mg | C(N)(OCC1=CC=CC=C1)=O | C8H9NO2
reactant | THF | 6 ml | C1CCOC1 | C4H8O
product | benzyl methyl (1-trityl-1H-pyrazolo[4,3-c]pyridine-3,6-diyl)dicarbamate | 0.216 mmol, 126 mg, 40.2% yield | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1N=C(C=2C=NC(=CC21)NC(OC)=O)NC(OCC2=CC=CC=C2)=O | C35H29N5O4
